US06335360B1
1-(N-t-Butoxycarbonyl-2(S)-aminobutyryl)-5-benzyloxyindoline-2(R/S)-carboxylic acid
To a solution of 1-(N-t-butoxycarbonyl-2(S)-aminobutyryl)-5-benzyloxyindoline-2(R/S)-carboxylic acid methylester (2.75 g, 5.76 mmol) in methanol (20 mL), was added the water solution of sodium hydroxide (0.46 g, 11.52 mmol) under nitrogen at 10-15° C. The solution was stirred at room temperature for fourteen hours, then poured into dichloromethane and washed with potassium hydrogen sulphate solution, water. The organic layer was separated and dried over magnesium sulphate, solvent removal gave a yellow foam which was pure enough for the next step.

reactant | 1-(N-t-butoxycarbonyl-2(S)-aminobutyryl)-5-benzyloxyindoline-2(R/S)-carboxylic acid methylester | 5.76 mmol, 2.75 g | COC(=O)C1N(C2=CC=C(C=C2C1)OCC1=CC=CC=C1)C([C@H](CC)NC(=O)OC(C)(C)C)=O | C26H32N2O6
reactant | water | O | H2O
reactant | sodium hydroxide | 11.52 mmol, 0.46 g | [OH-].[Na+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 20 mL | CO | CH4O
product | 1-(N-t-Butoxycarbonyl-2(S)-aminobutyryl)-5-benzyloxyindoline-2(R/S)-carboxylic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1C(CC2=CC(=CC=C12)OCC1=CC=CC=C1)C(=O)O)CC | C25H30N2O6
